US07732609B2
Synthesis of cis and trans-1-benzyl-2,6-dimethylpiperidin-4-one (90, 91).
The 1 L 3-necked roundbottom flask, equipped with mechanical stirrer, reflux condenser, thermometer and addition funnel was charged with the solution of acetone dicarboxylic acid (40 g, 0.28 mol) in water (100 ml). The stirred solution was treated with acetaldehyde (25.3 g. 0.55 mol) at ambient temp. for 10 min., then benzylamine (30 ml, 0.28 mol) was added in small portions over 15 min. Vigorous gas evolution was observed and was moderated by use of a cooling bath (ice-water). The resulting yellow solution was stirred at ambient temperature for 78 hr. The stirred reaction mixture was acidified with aq. 1 N HCl to pH2, stirred for 1 hr then neutralized with aq. sodium bicarbonate to pH7 and extracted with CH2Cl2 (3×250 ml). Combined extracts were washed with brine and dried with anhydrous Na2SO4. The solution was filtered and evaporated to give brown liquid, 57 g. The isomeric piperidinones were separated by flash chromatography, eluting with CH2Cl2-EtOAc (9:1). The yield of the first-eluting compound, identified as the cis-isomer was 20 g. The yield of the second-eluting compound, identified as the trans-isomer was 25 g. A small amount of unresolved material was also collected (ca. 4.7 g).

reactant | acetone dicarboxylic acid | 0.28 mol, 40 g | CC(=O)C.C(=O)O.C(=O)O
reactant | acetaldehyde | 0.55 mol, 25.3 g | C(C)=O | C2H4O
reactant | benzylamine | 0.28 mol, 30 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | HCl | 1 N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 100 ml | O | H2O
product | trans-1-benzyl-2,6-dimethylpiperidin-4-one | C(C1=CC=CC=C1)N1[C@H](CC(C[C@@H]1C)=O)C | C14H19NO
